US07625932B2
Preparation of 1-Cyclohexyloxy-4-nitrobenzene
Prepare the title compound in the manner analogous to the procedure set fourth in example E-227 using 4-fluoro-nitrobenzene and cyclohexanol (heat 1.5 hours at 55° C.). Purify the material by silica gel chromatography (Prep.2000) eluting with methylene chloride/hexane 1:1 to provide the title compound as an oil. Mass spectrum (m/e): 221.1 (M*). (Bruker 300) 1H NMR (CDCl3) δ 8.13-8.18 (2H, d), 6.90-6.93 (2H, d), 4.31-4.39 (1H, m), 1.92-2.02 (2H, m), 1.75-1.85 (2H, m), 1.50-1.62 (3H, m), 1.28-1.44 (3H, m).

reactant | 4-fluoro-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 1-Cyclohexyloxy-4-nitrobenzene | C1(CCCCC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO3
